US07638515B2
4-(5-Bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentan-1-ol
3 g (7.25 mmol) of 4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid ethyl ester is dissolved in 120 ml of diethyl ether, and the reaction mixture is cooled to 0° C. 426.5 mg (10.89 mmol) of lithium aluminum hydride is added in portions. After two hours of stirring at room temperature, starting material is no longer present. The batch is mixed with saturated sodium bicarbonate solution while being cooled in an ice bath, the precipitate is suctioned off, and it is washed with diethyl ether. After spinning-in, the residue is chromatographed on a Flashmaster. In addition to 540.5 mg of 4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal, 1.14 g of the desired alcohol (which, however, also contains the Desbrom compound) is isolated.

reactant | 4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid ethyl ester | 7.25 mmol, 3 g | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)Br)OC)(C(F)(F)F)O)=O | C16H20BrF3O4
reactant | lithium aluminum hydride | 10.89 mmol, 426.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 4-(5-Bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentan-1-ol | BrC=1C=CC(=C(C1)C(CC(CO)(C(F)(F)F)O)(C)C)OC | C14H18BrF3O3
